US06262060B1
0.74 ml (0.007 mol) of 1-chloroethyl chloroformate is added to a solution of 1.6 g (0.006 mol) of 8-(phenylmethyl)-1,4-dithia-8-azaspiro-[4.5]decane in 20 ml of dichloroethane; the mixture is heated under reflux for 1.5 h, it is cooled to room temperature, 8 ml of 1 M sodium hydroxide are added, the organic phase is decanted off, the aqueous phase is washed with 25 ml of dichloromethane, the organic phases are dried with sodium sulphate and then evaporated to dryness; the residue is dissolved in 35 ml of methanol and the solution is heated at 60° C. for 40 min; the solvent is evaporated off and the solid obtained is triturated with diisopropyl ether; 0.993 g of 1,4-dithia-8-azaspiro[4.5]decane hydrochloride is thus obtained in the form of a white solid. Yield 78%. Melting point >250° C.

reactant | 1-chloroethyl chloroformate | 0.007 mol, 0.74 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 8-(phenylmethyl)-1,4-dithia-8-azaspiro-[4.5]decane | 0.006 mol, 1.6 g | C1(=CC=CC=C1)CN1CCC2(SCCS2)CC1 | C14H19NS2
reactant | sodium hydroxide | 1 M, 8 ml | [OH-].[Na+]
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | 1,4-dithia-8-azaspiro[4.5]decane hydrochloride | 0.993 g, Yield 78% | Cl.S1CCSC12CCNCC2 | InChI=1S/C7H13NS2.ClH/c1-3-8-4-2-7(1)9-5-6-10-7;/h8H,1-6H2;1H
